US06780872B2
4-(3-bromo-4-fluorophenyl)-1-ethyl-1,2,4,6,7,8-hexahydrocyclopenta[b]pyrazolo[4,3-e]pyridine-3,5-dione
5-Amino-1-ethyl-1,2-dihydropyrazol-3-one (0.13 g, 1 mmol), prepared by the method of (A. Weisberger and A. Porter, J. Amer. Chem. Soc, (1944) 66,1849) from ethylhydrazine and ethyl cyanoacetate, 3-bromo-4-fluorobenzaldehyde (0.2 g, 1 mmol), and 1,3-cyclopentanedione (0.1 g, 1 mmol) in ethyl alcohol (2 mL) were heated at 80° C. for 2 days in a sealed tube. The reaction mixture was cooled and the resulting precipitate was filtered off to provide 0.23 g (58%) of the title compound as a tan solid. 1H NMR (300 MHz, DMSO-d6) δ 1.22 (t, 3H), 2.28 (t, 2H), 2.68 (m, 2H), 3.82 (q, 2H), 4.7 (s, 1H), 7.17 (m, 1H), 7.2 (t, 1H), 7.4 (dd,1H), 9.64 (bs, 1H), 10.4 (s, 1H); MS (ESI−) m/z 392 (M−H)−; Anal. calcd for C17H15N3BrFO2.0.5H2O: C, 50.89; H, 4.02; N, 10.47. Found: C, 50.85; H, 3.72; N, 10.25.

reactant | 5-Amino-1-ethyl-1,2-dihydropyrazol-3-one | 1 mmol, 0.13 g | NC1=CC(NN1CC)=O | C5H9N3O
reactant | ethylhydrazine | C(C)NN | C2H8N2
reactant | ethyl cyanoacetate | C(#N)CC(=O)OCC | C5H7NO2
reactant | 3-bromo-4-fluorobenzaldehyde | 1 mmol, 0.2 g | BrC=1C=C(C=O)C=CC1F | C7H4BrFO
reactant | 1,3-cyclopentanedione | 1 mmol, 0.1 g | C1(CC(CC1)=O)=O | C5H6O2
solvent | ethyl alcohol | 2 mL | C(C)O | C2H6O
product | 4-(3-bromo-4-fluorophenyl)-1-ethyl-1,2,4,6,7,8-hexahydrocyclopenta[b]pyrazolo[4,3-e]pyridine-3,5-dione | 0.23 g, 58% | BrC=1C=C(C=CC1F)C1C2=C(NC3=C1C(NN3CC)=O)CCC2=O | C17H15BrFN3O2
